US04985419
Pyrrolidine (21.1 cc) is added to a suspension of (2RS)-2-(7-chloro-2-cyano-10-phenothiazinyl)propyl methanesulphonate (72.1 g) in toluene (166 cc). The mixture is brought to 120° C. for 21 hours, and then to 150° C. for 12 hours. After cooling, the mixture is washed with distilled water (5×250 cc). The organic phase is dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) to give 7-chloro-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbonitrile (19.2 g).

reactant | Pyrrolidine | 21.1 cc | N1CCCC1 | C4H9N
reactant | (2RS)-2-(7-chloro-2-cyano-10-phenothiazinyl)propyl methanesulphonate | 72.1 g | CS(=O)(=O)OCC(C)N1C2=CC=C(C=C2SC=2C=CC(=CC12)C#N)Cl | C17H15ClN2O3S2
solvent | toluene | 166 cc | C1(=CC=CC=C1)C | C7H8
product | 7-chloro-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbonitrile | 19.2 g | ClC=1C=C2SC=3C=CC(=CC3N(C2=CC1)C(CN1CCCC1)C)C#N | C20H20ClN3S
